US05102667
Ethyl phenylacetimidate hydrobromide (1.2 g) and triethylamine (1.4 cc) are added to a stirred suspension of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (1.6 g) in 1,2-dichloroethane (40 cc). Stirring of the reaction mixture is continued for 20 hours at ambient temperature and then for 6 hours under reflux. After the temperature has returned to ambient temperature, the reaction mixture is treated with a saturated aqueous solution (50 cc) of potassium carbonate; the organic phase is dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from acetonitrile (20 cc). The crystals obtained are drained and dried. (3aRS,7aRS)-2-(α-iminophenethyl)-7,7-diphenyl-4-perhydroisoindolone (0.9 g) melting at 195° C. is obtained.

reactant | Ethyl phenylacetimidate hydrobromide | 1.2 g | Br.C1(=CC=CC=C1)CC(OCC)=N
reactant | triethylamine | 1.4 cc | C(C)N(CC)CC | C6H15N
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 1.6 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | potassium carbonate | 50 cc | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 40 cc | ClCCCl | C2H4Cl2
product | (3aRS,7aRS)-2-(α-iminophenethyl)-7,7-diphenyl-4-perhydroisoindolone | 0.9 g | N=C(CC1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N2O
